US09376422B2
Step 4: Synthesis of 5-{1-[(tert-butoxy)carbonyl]azetidin-3-yl}-3-[ethyl(oxan-4-yl)amino]-2-methylbenzoic acid
To a stirred solution of tert-butyl 3-{3-[ethyl(oxan-4-yl)amino]-5-(methoxycarbonyl)-4-methylphenyl}azetidine-1-carboxylate (78 mg, 0.18 mmol) in THF (2 ml) and MeOH (0.1 ml) was added 2M NaOH solution (0.9 ml, 1.8 mmol) and the reaction was stirred at room temperature for 16 h followed by heating at 50° C. for 22 h. The reaction was cooled to room temperature and the solvent removed in vacuo after which the aqueous solution was adjusted to pH5 using 1M HCl. The product was extracted into DCM (2×50 ml), dried with Na2SO4 and filtered to afford the title compound as a colourless oil (54 mg, 72%). LC-MS 100%, 1.70 min (3.5 minute LC-MS method), m/z=419.2, 1H NMR (500 MHz, MeOD) δ 7.77 (s, 1H), 7.55 (s, 1H), 4.36 (t, J=8.2 Hz, 2H), 3.90 (d, J=27.0 Hz, 5H), 3.71 (t, J=6.5 Hz, 1H), 3.36 (t, J=11.3 Hz, 3H), 2.55 (s, 3H), 1.92-1.81 (m, 1H), 1.64 (d, J=55.8 Hz, 3H), 1.49-1.42 (m, 10H), 0.93 (s, 3H).

reactant | tert-butyl 3-{3-[ethyl(oxan-4-yl)amino]-5-(methoxycarbonyl)-4-methylphenyl}azetidine-1-carboxylate | 0.18 mmol, 78 mg | C(C)N(C=1C=C(C=C(C1C)C(=O)OC)C1CN(C1)C(=O)OC(C)(C)C)C1CCOCC1 | C24H36N2O5
reactant | NaOH | 1.8 mmol, 2M, 0.9 ml | [OH-].[Na+]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | MeOH | 0.1 ml | CO | CH4O
product | 5-{1-[(tert-butoxy)carbonyl]azetidin-3-yl}-3-[ethyl(oxan-4-yl)amino]-2-methylbenzoic acid | 54 mg, 72% | C(C)(C)(C)OC(=O)N1CC(C1)C=1C=C(C(=C(C(=O)O)C1)C)N(C1CCOCC1)CC | C23H34N2O5
